US04898872
3,4-Dihydro-4,8-dimethyl-6-[(N-2-aminophenyl)-amino]-2-(1H)-quinolone
This compound, m.p. 195°-199°, was prepared similarly to Preparation 17 using 3,4-dihydro-4,8-dimethyl-6-[(N-2-nitrophenyl)-amino]-2-(1H)-quinolone, hydrogen and palladised charcoal as starting materials. The product was characterised spectroscopically and used directly in Examples 13, 15 and 16 without further purification.

reactant | 3,4-dihydro-4,8-dimethyl-6-[(N-2-nitrophenyl)-amino]-2-(1H)-quinolone | CC1CC(NC2=C(C=C(C=C12)NC1=C(C=CC=C1)[N+](=O)[O-])C)=O | C17H17N3O3
reactant | hydrogen | [H][H] | H2
reactant | charcoal | C | CH4
product | 3,4-Dihydro-4,8-dimethyl-6-[(N-2-aminophenyl)-amino]-2-(1H)-quinolone | CC1CC(NC2=C(C=C(C=C12)NC1=C(C=CC=C1)N)C)=O | C17H19N3O
